US07772249B2
N-[8-(2,4-Dichlorophenyl)-2-ethylimidazo[1,2-a]pyrazin-3-yl]-N-propylamine (296 mg, 0.85 mmol) and propionaldehyde (0.19 mL, 2.6 mmol) were dissolved in tetrahydrofuran (1.1 mL), and 3M sulfuric acid (0.87 mL, 2.6 mmol) was added thereto. Sodium borohydride (70 mg) was added thereto under ice-cooling, and the mixture was stirred for 3 hours. Water was added to the reaction mixture, which was neutralized with a 2N aqueous sodium hydroxide solution and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:2) to give N-[8-(2,4-dichlorophenyl)-2-ethylimidazo[1,2-a]pyrazin-3-yl]-N,N-dipropylamine (272 mg) as pale yellow crystals. The resulting free compound was converted into hydrochloride with hydrochloric acid-ether using the conventional method, to give the title compound (250 mg) as white crystals.

reactant | N-[8-(2,4-Dichlorophenyl)-2-ethylimidazo[1,2-a]pyrazin-3-yl]-N-propylamine | 0.85 mmol, 296 mg | ClC1=C(C=CC(=C1)Cl)C=1C=2N(C=CN1)C(=C(N2)CC)NCCC | C17H18Cl2N4
reactant | propionaldehyde | 2.6 mmol, 0.19 mL | C(CC)=O | C3H6O
reactant | sulfuric acid | 2.6 mmol, 3M, 0.87 mL | S(O)(O)(=O)=O | H2O4S
reactant | Sodium borohydride | 70 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 1.1 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | N-[8-(2,4-dichlorophenyl)-2-ethylimidazo[1,2-a]pyrazin-3-yl]-N,N-dipropylamine | 272 mg | ClC1=C(C=CC(=C1)Cl)C=1C=2N(C=CN1)C(=C(N2)CC)N(CCC)CCC | C20H24Cl2N4
